data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:5]1([c:10]2[c:30]([CH3:12])[cH:24][c:18]([CH3:16])[cH:27][c:33]2[CH3:15])[CH:23]=[CH:22][N:6]([c:11]2[c:31]([CH3:13])[cH:25][c:19]([CH3:17])[cH:26][c:32]2[CH3:14])[C:34]1=[CH2:20].[c:1]1([N+:4](=[O:29])[O-:35])[s:7][cH:2][c:8]([N+:3](=[O:9])[O-:21])[cH:28]1>>[C:1]1([N+:4](=[O:29])[O-:35])=[CH:28][C:8](=[N+:3]([O-:9])[O-:21])[CH:2]([CH2:20][c:34]2[n+:5](-[c:10]3[c:30]([CH3:12])[cH:24][c:18]([CH3:16])[cH:27][c:33]3[CH3:15])[cH:23][cH:22][n:6]2-[c:11]2[c:31]([CH3:13])[cH:25][c:19]([CH3:17])[cH:26][c:32]2[CH3:14])[S:7]1", "epd": [["LP-/Pi+", [5], [34, 5]], ["Pi-/Sigma+", [20, 34], [20, 2]], ["Pi-/Pi+", [2, 8], [8, 3]], ["Pi-/LP+", [3, 9], [9]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:1]([N+:3]12[CH2:9][CH2:21][N+:7]([F:2])([CH2:22][CH2:10]1)[CH2:23][CH2:11]2)[Cl:25].[cH:4]1[cH:14][cH:5][c:19]([C:16](=[C:8]2[N:12]([CH3:26])[C:17]([CH3:24])=[C:28]([CH3:27])[S:18]2)[O:20][CH3:13])[cH:6][cH:15]1>>[CH2:1]([N+:3]12[CH2:9][CH2:21][N:7]([CH2:22][CH2:10]1)[CH2:23][CH2:11]2)[Cl:25].[F:2][C:16]([c:8]1[n+:12]([CH3:26])[c:17]([CH3:24])[c:28]([CH3:27])[s:18]1)([c:19]1[cH:5][cH:14][cH:4][cH:15][cH:6]1)[O:20][CH3:13]", "epd": [["LP-/Pi+", [12], [8, 12]], ["Pi-/Sigma+", [16, 8], [16, 2]], ["Sigma-/LP+", [2, 7], [7]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[c:1]12[cH:17][c:29]([B-:27]([F:10])([F:11])[F:12])[n:7]([CH3:2])[c:21]1[cH:24][cH:4][cH:3][cH:18]2.[cH:5]1[cH:15][cH:6][c:8]2[c:16]([o+:9][c:14](-[c:26]3[cH:22][cH:19][cH:28][cH:20][cH:23]3)[cH:13][cH:25]2)[cH:30]1>>[c:1]12[cH:18][cH:3][cH:4][cH:24][c:21]1[N+:7]([CH3:2])=[C:29]([B-:27]([F:10])([F:11])[F:12])[CH:17]2[CH:25]1[c:8]2[cH:6][cH:15][cH:5][cH:30][c:16]2[O:9][C:14]([c:26]2[cH:22][cH:19][cH:28][cH:20][cH:23]2)=[CH:13]1", "epd": [["LP-/Pi+", [7], [29, 7]], ["Pi-/Sigma+", [17, 29], [17, 25]], ["Pi-/Pi+", [25, 13], [13, 14]], ["Pi-/LP+", [14, 9], [9]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:4]([cH:18][cH:14][cH:23][cH:7]1)-[c:5]1[c:2]([cH:8][cH:24][cH:15][cH:19]1)[N+:22]2=[CH:3][CH3:20].[c:6]1([CH:16]=[N+:13]=[N-:21])[cH:11][cH:9][cH:17][cH:10][cH:12]1>>[c:1]12[c:4]([c:5]3[c:2]([cH:8][cH:24][cH:15][cH:19]3)[n:22]1[CH:3]([CH:16]([c:6]1[cH:11][cH:9][cH:17][cH:10][cH:12]1)[N+:13]#[N:21])[CH3:20])[cH:18][cH:14][cH:23][cH:7]2", "epd": [["LP-/Pi+", [21], [13, 21]], ["Pi-/Sigma+", [16, 13], [16, 3]], ["Pi-/LP+", [3, 22], [22]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:10]1[cH:2][n:7][c:16]2[c:21]([n+:6]([O-:5])[o:11][n:37]2)[cH:23]1)(=[O:24])[O-:35].[N:3]1([c:8]2[c:31]([CH3:12])[cH:27][c:19]([CH3:17])[cH:30][c:34]2[CH3:15])[CH:26]=[CH:25][N:4]([c:9]2[c:32]([CH3:13])[cH:28][c:20]([CH3:18])[cH:29][c:33]2[CH3:14])[C:36]1=[CH2:22]>>[N+:1](=[C:10]1[CH:2]=[N:7][c:16]2[c:21]([n+:6]([O-:5])[o:11][n:37]2)[CH:23]1[CH2:22][c:36]1[n+:3](-[c:8]2[c:31]([CH3:12])[cH:27][c:19]([CH3:17])[cH:30][c:34]2[CH3:15])[cH:26][cH:25][n:4]1-[c:9]1[c:32]([CH3:13])[cH:28][c:20]([CH3:18])[cH:29][c:33]1[CH3:14])([O-:24])[O-:35]", "epd": [["LP-/Pi+", [3], [36, 3]], ["Pi-/Sigma+", [22, 36], [22, 23]], ["Pi-/Pi+", [23, 10], [10, 1]], ["Pi-/LP+", [1, 24], [24]]]}
{"reaction_name": "Addition to carbon disulfide", "rsmi": "[CH3:1][Mg:2][Br:6].[S:3]=[C:5]=[S:4]>>[Br-:6].[CH3:1][C:5](=[S:3])[S-:4].[Mg+2:2]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 5]], ["Pi-/LP+", [3, 5], [3]], ["LP-/Pi+", [3], [3, 5]], ["Pi-/LP+", [4, 5], [4]], ["Sigma-/LP+", [2, 6], [6]]]}
{"reaction_name": "Anionic Fries rearrangement", "rsmi": "[H:10][O-:13].[O:1]=[C:12]([O:2][c:11]1[c:5]([H:7])[cH:3][cH:4][cH:9][cH:8]1)[CH3:6]>>[H:7][O:13][H:10].[O:1]=[C:12]([c:5]1[cH:3][cH:4][cH:9][cH:8][c:11]1[O-:2])[CH3:6]", "epd": [["Sigma-/Sigma+", [5, 7], [5, 12]], ["Pi-/LP+", [1, 12], [1]], ["LP-/Pi+", [1], [1, 12]], ["Sigma-/LP+", [2, 12], [2]], ["LP-/Sigma+", [13], [7, 13]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:4](=[O:2])([C:6]([F:33])([F:34])[F:35])[c:29]1[cH:17][c:5]2[n+:8]([O-:3])[o:32][n:10][c:36]2[c:26]([N+:13]([O-:9])=[O:23])[cH:31]1.[cH:7]1[cH:18][cH:11][c:24]([C:20](=[C:14]2[N:15]([CH3:28])[C:21]([CH3:27])=[C:37]([CH3:30])[S:22]2)[O:25][CH3:16])[cH:12][cH:19]1>>[O:1]=[S:4](=[O:2])([C:6]([F:33])([F:34])[F:35])[C:29]1=[CH:31][C:26](=[N+:13]([O-:9])[O-:23])[c:36]2[c:5]([n+:8]([O-:3])[o:32][n:10]2)[CH:17]1[C:20]([c:14]1[n+:15]([CH3:28])[c:21]([CH3:27])[c:37]([CH3:30])[s:22]1)([c:24]1[cH:11][cH:18][cH:7][cH:19][cH:12]1)[O:25][CH3:16]", "epd": [["LP-/Pi+", [15], [14, 15]], ["Pi-/Sigma+", [20, 14], [20, 17]], ["Pi-/Pi+", [17, 29], [29, 31]], ["Pi-/Pi+", [31, 26], [26, 13]], ["Pi-/LP+", [13, 23], [23]]]}
